US09029531B2
Step A: dimethyl 2-(5-fluoropyridin-2-yl)malonate
The solution of 2-bromo-5-fluoropyridine (1.0 g, 5.68 mmol), dimethyl malonate (3.0 g, 22.7 mmol) picolinic acid (559.6 mg, 4.54 mmol), CuI (431.8 mg, 2.27 mmol) and Cs2CO3 (5.6 g, 17.05 mmol) in DMF (30 mL) was stirred at 100 degree for 12 h. After cooling to room temperature, the reaction mixture was filtered, diluted with H2O and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a standard method to give desired compound (400 mg). LC-MS: m/z (M+H)=228.2

reactant | 2-bromo-5-fluoropyridine | 5.68 mmol, 1.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | dimethyl malonate | 22.7 mmol, 3.0 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | Cs2CO3 | 17.05 mmol, 5.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 2.27 mmol, 431.8 mg | [Cu]I
product | dimethyl 2-(5-fluoropyridin-2-yl)malonate | 400 mg | FC=1C=CC(=NC1)C(C(=O)OC)C(=O)OC | C10H10FNO4
